US04720352
Vanadium 2-ethylhexanoate
A mixture of 21.5 grams (0.236 mole) of vanadium pentoxide, 128.1 grams (0.884 mole) of 2-ethylhexanoic acid (acid number 387) and 100 grams of mineral spirits was heated to 95° C. for 4.5 hours with no reaction occurring.

reactant | vanadium pentoxide | 0.236 mole, 21.5 grams | [O-2].[O-2].[O-2].[O-2].[O-2].[V+5].[V+5]
reactant | 2-ethylhexanoic acid | 0.884 mole, 128.1 grams | C(C)C(C(=O)O)CCCC | C8H16O2
product | Vanadium 2-ethylhexanoate | C(C)C(C(=O)[O-])CCCC.[V+5].C(C)C(C(=O)[O-])CCCC.C(C)C(C(=O)[O-])CCCC.C(C)C(C(=O)[O-])CCCC.C(C)C(C(=O)[O-])CCCC | InChI=1S/5C8H16O2.V/c5*1-3-5-6-7(4-2)8(9)10;/h5*7H,3-6H2,1-2H3,(H,9,10);/q;;;;;+5/p-5
